US08236319B2
Z-Gly-Gly-Gly-β-Ala-OtBu
1.3 g (4.0 mmol) of Z-Gly-Gly-Gly-OH, 0.583 g (4.0 mmol) of tert-butyl-3-aminopropionate 0.651 g (4.25 mmol) of hydroxybenzotriazole and 0.81 g (4.23 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride were weighed into a 50 mL flask then dissolved in 20 mL of dimethylformamide with magnetic stirring under a nitrogen atmosphere. After 3 hours the reaction mixture was purified in 5 mL portions by reverse phase HPLC using a 5.0 cm×25 cm C18 column. The column was run at 100 mL/min with deionized water containing 0.3% formic acid 5% acetonitrile for 10 min followed by a 15 min linear gradient from 5% acetonitrile to 90% acetonitrile. Product fractions (retention time of 19 min) were combined and solvent was removed by rotary evaporation under vacuum to give 1.35 g (75%) of the title compound. 1H NMR (d6-DMSO) 8.16 (t, J=5.2 Hz, 1H), 8.10 (t, J=5.2 Hz, 1H), 7.82 (t, J=5.2 Hz, 1H), 7.25-7.4 (m, 5H), 5.04 (s, 2H), 3.74 (d, J=5.6 Hz, 2H), 3.67 (t, J=6.4 Hz, 4H), 3.25 (q, J=6.1 Hz, 2H), 2.35 (t, J=6.8 Hz, 2H), 1.39 (s, 9H). 13C NMR (d6-DMSO) 170.45, 169.61, 169.00, 168.63, 156.49, 136.94, 128.30, 127.76, 127.69, 79.89, 65.51, 43.56, 42.10, 41.90, 34.89, 34.78, 27.70. HRMS (M+Na+) Calc. 473.2012 found 473.1995.

reactant | Z-Gly-Gly-Gly-OH | 4.0 mmol, 1.3 g | N(CC(=O)NCC(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C14H17N3O6
reactant | tert-butyl-3-aminopropionate | 4.0 mmol, 0.583 g | C(C)(C)(C)OC(CCN)=O | C7H15NO2
reactant | hydroxybenzotriazole | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.23 mmol, 0.81 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Z-Gly-Gly-Gly-β-Ala-OtBu | 1.35 g, 75% | N(CC(=O)NCC(=O)NCC(=O)NCCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C21H30N4O7
